US06696445B2
A. (2-Aminoethyl)[2-methyl-8-(2,4,6-trimethylphenyl)(4-quinolyl)]amine
In a sealed tube, heat 4-bromo-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline (100 mg, 0.29 mmol) at 140° C. in a mixture of ethylene glycol (1 mL) and ethylene diamine (0.3 mL). After 4 h, cool the reaction mixture and partition between saturated aqueous NaHCO3 and chloroform. Dry the combined organic extracts on Na2SO4 and concentrate under reduced pressure to obtain the title compound as a yellow glass: +APcI MS (M+1)+ 320; 1H NMR (methanol-d4) δ: 7.78 (dd, 1H), 7.39 (t, 1H), 7.34 (dd, 1H), 6.95 (s, 2H), 6.31 (s, 1H), 3.34 (t, 2H), 3.11 (t, 2H), 2.43 (s, 3H), 2.34 (s, 3H), 1.89 (s, 6H).

reactant | 4-bromo-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline | 0.29 mmol, 100 mg | BrC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C19H18BrN
reactant | ethylene diamine | 0.3 mL | C(CN)N | C2H8N2
solvent | ethylene glycol | 1 mL | C(CO)O | C2H6O2
product | (2-Aminoethyl)[2-methyl-8-(2,4,6-trimethylphenyl)(4-quinolyl)]amine | NCCNC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C21H25N3
